US08871187B2
135 mg (0.4 mmol) of 3-(2-fluorophenyl)-3-hydroxy-1-(tert-butoxycarbonyl)azetidine at 80% in 2 ml of dimethylformamide are added to a suspension of 65 mg (1.6 mmol) of sodium hydride at 60% in 1.5 ml of dimethylformamide, under nitrogen, at 0° C. After stirring for 20 minutes at 0° C., 0.2 ml (1.5 mmol) of iodobutane are added. The reaction medium is stirred at ambient temperature for 1 h 30 and is then hydrolysed with water and with a saturated aqueous solution of ammonium chloride and extracted with a 1/2 heptane/ethyl acetate mixture. The organic phases are combined, washed with water, dried over magnesium sulphate, filtered and evaporated. The crude product is purified by silica gel chromatography, elution being carried out with an 8/2 heptane/ethyl acetate mixture. 104 mg of 3-butoxy-3-(2-fluorophenyl)-1-(tert-butoxycarbonyl)azetidine are obtained in the form of a yellow oil with a yield of 79%.

reactant | 3-(2-fluorophenyl)-3-hydroxy-1-(tert-butoxycarbonyl)azetidine | 0.4 mmol, 135 mg | FC1=C(C=CC=C1)C1(CN(C1)C(=O)OC(C)(C)C)O | C14H18FNO3
reactant | sodium hydride | 1.6 mmol, 65 mg | [H-].[Na+]
reactant | iodobutane | 1.5 mmol, 0.2 ml | ICCCC | C4H9I
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 3-butoxy-3-(2-fluorophenyl)-1-(tert-butoxycarbonyl)azetidine | 104 mg, yield of 79% | C(CCC)OC1(CN(C1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)F | C18H26FNO3
